US07345178B2
To a solution of 5-amino-6-chloro-3-picoline (9.54 g, 66.9 mmol) in pyridine (200 mL) was added 2-nitrobenzoyl chloride (13.65 g, 73.6 mmol) dropwise at 0° C. The resulting mixture was stirred at room temperature for 18 h. The dark mixture was then diluted with water (1500 mL) and sat. sodium bicarbonate solution was added until pH=8. The precipitate was collected by filtration, rinsed with water (30 mL×3) and dried in oven to afford N-(2-chloro-5-methylpyridin-3-yl)-2-nitrobenzamide as a pale solid (17.70 g, yield: 91%).

reactant | 5-amino-6-chloro-3-picoline | 66.9 mmol, 9.54 g | NC=1C=C(C=NC1Cl)C | C6H7ClN2
reactant | 2-nitrobenzoyl chloride | 73.6 mmol, 13.65 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 1500 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(2-chloro-5-methylpyridin-3-yl)-2-nitrobenzamide | 17.70 g, yield: 91% | ClC1=NC=C(C=C1NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C13H10ClN3O3
